US05041433
Alternatively, corticosterone, in an appropriate solvent such as acetone, may be treated directly with Jones reagent to yield androst-4-ene-3,11-dione-17β-carboxylic acid.

reactant | corticosterone | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@H](C[C@]4([C@H]3CC[C@@H]4C(=O)CO)C)O | C21H30O4
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
product | androst-4-ene-3,11-dione-17β-carboxylic acid | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1C(C2)=O)=O)C(=O)O | C20H26O4
